US07384934B2
(S)-10-[3-(2-Methoxy-ethyl)-piperazin-1-yl]-4H-3-thia-1,4,9-triaza-benzo[f]azulene-2-carboxylic acid ethyl ester
Combine 10-thioxo-9,10-dihydro-4H-3-thia-1,4,9-triaza-benzo[f]azulene-2-carboxylic acid ethyl ester (3.59 g, 11.76 mmol) in 25 mL CH2Cl2 and add methyl trifluoromethanesulfonate (2.41 g, 14.7 mmol) dropwise at 0° C., stir at 0° C. for half hour, and warm to RT. After 2 h, concentrate the reaction mixture under reduced pressure, mix with (S)-2-(2-methoxy-ethyl)-piperazine (0.1.47 g, 10.2 mmol) in 20 mL pyridine and heat to 100° C. After 4 hours, cool the reaction to RT, and concentrate to a residue. Purification by flash chromatography (twice) on silica gel using a gradient (100% CH2Cl2 to 100% mixed solvent of (CH2Cl2: 2N NH3/MeOH=20:1)) over 55 min. gives the title compound: mass spectrum (electrospray) (m/e): C20H25N5O3S, Calc. Mass (M+1): 416.1756, Found: 416.1748. 1H NMR (400 MHz, CDCl3): δ 7.05-6.98 (m, 2H), 6.91-6.85 (m, 1H), 6.65-6.62 (m, 1H), 5.51 (br, 1H), 4.40 (q, 2H, J=7.5 Hz). 4.10 (br, 2H), 3.51 (t, 2H, J=6.0 Hz), 3.32 (s, 3H), 3.30-3.00 (m, 4H), 2.79-2.72 (m, 1H), 1.79-1.66 (m, 2H), 1.38 (t, 3H, J=7.5 Hz).

reactant | 10-thioxo-9,10-dihydro-4H-3-thia-1,4,9-triaza-benzo[f]azulene-2-carboxylic acid ethyl ester | 11.76 mmol, 3.59 g | C(C)OC(=O)C1=NC=2C(NC3=C(NC2S1)C=CC=C3)=S | C13H11N3O2S2
reactant | methyl trifluoromethanesulfonate | 14.7 mmol, 2.41 g | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | (S)-2-(2-methoxy-ethyl)-piperazine | 10.2 mmol | COCC[C@@H]1NCCNC1 | C7H16N2O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | (S)-10-[3-(2-Methoxy-ethyl)-piperazin-1-yl]-4H-3-thia-1,4,9-triaza-benzo[f]azulene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCOC | C20H25N5O3S
